US04985422
3,4-Dihydro-4-methylcyclopent[b]indol-1(2H)-one oxime
3,4-Dihydro-4-methylcyclopent[b]indol-1(2H)-one (1.7 g) and hydroxylamine hydrochloride (1.925 g) in pyridine were heated at 60° for 18h and cooled. The reaction mixture was evaporated in vacuo to a residue to which was added 8% sodium bicarbonate (150 ml). Extraction with ethyl acetate (300 ml) produced a suspension in the organic layer; this layer and associated solid was separated from the aqueous layer. The aqueous layer was re-extracted with ethyl acetate (250 ml). The combined organic extracts (and suspended solid) were evaporated to a residue, boiled with a mixture of ethanol (150 ml) and methanol (150 ml) and cooled to ca. 50°. The residue was adsorbed from this solution on to FCC silica and applied to an FCC column. Elution with ethyl acetate/3-10% methanol provided the title compound (1.69 g), m.p. 219°-224° (decomp.).

reactant | 3,4-Dihydro-4-methylcyclopent[b]indol-1(2H)-one | 1.7 g | CN1C2=C(C=3C=CC=CC13)C(CC2)=O | C12H11NO
reactant | hydroxylamine hydrochloride | 1.925 g | Cl.NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,4-Dihydro-4-methylcyclopent[b]indol-1(2H)-one oxime | 1.69 g | CN1C2=C(C=3C=CC=CC13)C(CC2)=NO | C12H12N2O
